US08138181B2
Step 1A: Preparation of 6-fluoro-2-methylquinolin-8-ol:
2-Amino-5-fluorophenol (13.0 g, 102 mmol) was dissolved in 6N HCl (78 mL) and heated to reflux. The solution was treated with (E)-but-2-enal (8.8 ml, 107 mmol) in 1 mL portions over 1 hour. The reaction was heated at reflux for 13 hours. The reaction mixture was cooled and adjusted to pH 8 with concentrated NH4OH. The reaction was diluted with ethyl acetate, stirred for 30 minutes then filtered through a nylon membrane (0.45 μM). The filtrate was separated and the aqueous was washed with ethyl acetate. The combined organics were washed with saturated NaHCO3, saturated NaCl, dried over Na2SO4 and concentrated in vacuo to a thick dark oil (19 g). MS APCI (+) m/z 178.1 (M+1) detected.

reactant | 2-Amino-5-fluorophenol | 102 mmol, 13.0 g | NC1=C(C=C(C=C1)F)O | C6H6FNO
reactant | (E)-but-2-enal | 107 mmol, 8.8 ml | C(\C=C\C)=O | C4H6O
reactant | NH4OH | [NH4+].[OH-]
solvent | HCl | 6N, 78 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-fluoro-2-methylquinolin-8-ol | FC=1C=C2C=CC(=NC2=C(C1)O)C | C10H8FNO
